US07119205B2
tert-butyl 5-acetylthiophene-2-carboxylate
A solution of 5-acetylthiophene-2-carboxylic acid (7 g, 41 mmol) in DMA (100 mL) was treated with 2-methyl-2-propanol (54 mL, 576 mmol), DMAP (3 g, 25 mmol), and EDCI (9.9 g, 51.5 mmol). The resulting mixture was stirred at 25° C. for 16 h. Water (200 mL) was added and the mixture was extracted with ethyl ether (350 mL). The organic phase was washed with 1 N HCl (100 mL), water (3×100 mL), saturated aqueous NaHCO3 (100 mL), and brine (100 mL); dried (Na2SO4); filtered; and evaporated to afford 6.7 g (72%) of the title compound as a tan solid. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.53 (s, 9H) 2.58 (s, 3H) 7.75 (d, J=3.68 Hz, 1H) 7.92 (d, J=3.68 Hz, 1H); MS (DCI) 227 m/z (M+H)+.

reactant | 5-acetylthiophene-2-carboxylic acid | 41 mmol, 7 g | C(C)(=O)C1=CC=C(S1)C(=O)O | C7H6O3S
reactant | 2-methyl-2-propanol | 576 mmol, 54 mL | CC(C)(C)O | C4H10O
reactant | EDCI | 51.5 mmol, 9.9 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | Water | 200 mL | O | H2O
solvent | DMA | 100 mL | CC(=O)N(C)C | C4H9NO
catalyst | DMAP | 25 mmol, 3 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 5-acetylthiophene-2-carboxylate | 6.7 g, 72% | C(C)(=O)C1=CC=C(S1)C(=O)OC(C)(C)C | C11H14O3S
